US06579879B2
A mixture of 3-chloro-6-methoxy pyridazine (0.69 mol, 100 g), thiourea (1.38 mol, 105 g) and ethyl methyl ketone (1.8 L) was refluxed for 3 hours. The reaction was cooled and the supernatant was poured into water and extracted with 1 M sodium hydroxide (4×100 mL). The sodium hydroxide solution was washed with EtOAc (2×50 mL), the aqueous extract was acidified with sufficient conc. HCl to lower the pH to 5 and the resulting yellow solid was collected and air-dried to obtain 3-mercapto-6-methoxy pyridazine (24%, 23 g); mp 198° C.-200° C.

reactant | 3-chloro-6-methoxy pyridazine | 0.69 mol, 100 g | ClC=1N=NC(=CC1)OC | C5H5ClN2O
reactant | thiourea | 1.38 mol, 105 g | NC(=S)N | CH4N2S
reactant | ethyl methyl ketone | 1.8 L | CC(=O)CC | C4H8O
solvent | water | O | H2O
product | 3-mercapto-6-methoxy pyridazine | 23 g, 24% | SC=1N=NC(=CC1)OC | C5H6N2OS
